US04812164
0.74 g of N,N'-dicyclohexylcarbodiimide is added while stirring at room temperature to a solution of 1.60 g of 1-(4-chloro-2-fluoro-5-hydroxyphenyl)-5-fluoro-2-methoxy-4-pentafluoroethyl-6(1H)-pyrimidinone, 0.30 g of 4-pentynoic acid and 0.05 g of 4-pyrrolidino-pyridine in 50 ml of methylene chloride and the mixture is stirred at room temperature for 5 hours. Insoluble constituents are subsequently filtered off under suction and the filtrate is evaporated to dryness. The residue is purified by chromatography on a silica gel column using n-hexane/diethyl ether (3:1) as the eluent. The product is recrystallized from n-hexane/diethyl ether. There is obtained 2-chloro-4-fluoro-5-[5-fluoro-2 -methoxy-6-oxo-4-pentafluoroethyl-1(6H)-pyrimidinyl]-phenyl 4-pentynoate, m.p. 107°-109° C.

reactant | N,N'-dicyclohexylcarbodiimide | 0.74 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 1-(4-chloro-2-fluoro-5-hydroxyphenyl)-5-fluoro-2-methoxy-4-pentafluoroethyl-6(1H)-pyrimidinone | 1.60 g | ClC1=CC(=C(C=C1O)N1C(=NC(=C(C1=O)F)C(C(F)(F)F)(F)F)OC)F | C13H6ClF7N2O3
reactant | 4-pentynoic acid | 0.30 g | C(CCC#C)(=O)O | C5H6O2
reactant | 4-pyrrolidino-pyridine | 0.05 g | N1(CCCC1)C1=CC=NC=C1 | C9H12N2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 2-chloro-4-fluoro-5-[5-fluoro-2 -methoxy-6-oxo-4-pentafluoroethyl-1(6H)-pyrimidinyl]-phenyl 4-pentynoate | C(CCC#C)(=O)OC1=C(C=C(C(=C1)N1C(=NC(=C(C1=O)F)C(C(F)(F)F)(F)F)OC)F)Cl | C18H10ClF7N2O4
